US05288733
N-Acetyl-2-[4-(quinolin-2-yl-methoxy)phenyl]-2-cycloheptyl-acetamide
8.0 g (0.02 mol) of 2-[4-(quinolin-2-yl-methoxy)phenyl]-2-cycloheptyl-acetic acid and 4.0 g (5.6 ml/0.04 mol) of triethylamine are dissolved in 80 ml of THF, the solution is cooled to 0° C., and 2.3 g (1.6 ml/0.02 mol) of mesyl chloride are added. 2.4 g (0.04 mol) of acetamide and 7.2 g (0.06 mol) of dimethylaminopyridine (DMAP), dissolved in 20 ml of THF, are added at 0° C. The mixture is allowed to react at room temperature for 48 hours (stirring) and is then concentrated to dryness in vacuo, and the residue is extracted by stirring with 50 ml of water and 50 ml of dichloromethane. The organic phase is separated off, dried and concentrated to a small volume, and the residue is separated by column chromatography (silica gel 60, mobile phase: toluene/ethyl acetate/ glacial acetic acid=8/1/1).

reactant | 2-[4-(quinolin-2-yl-methoxy)phenyl]-2-cycloheptyl-acetic acid | 0.02 mol, 8.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C(=O)O)C1CCCCCC1 | C25H27NO3
reactant | triethylamine | 0.04 mol, 5.6 ml, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.02 mol, 1.6 ml, 2.3 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | acetamide | 0.04 mol, 2.4 g | C(C)(=O)N | C2H5NO
reactant | dimethylaminopyridine | 0.06 mol, 7.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-Acetyl-2-[4-(quinolin-2-yl-methoxy)phenyl]-2-cycloheptyl-acetamide | C(C)(=O)NC(C(C1CCCCCC1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C27H30N2O3
